// Generated for: spectre
// Generated on: Aug 26 18:00:30 2022
// Design library name: MAINLIB_TESTING
// Design cell name: SL_inv_1x
// Design view name: schematic
simulator lang=spectre
global 0
include "design_wrapper.lib" section=tt_fet
include "design_wrapper.lib" section=tt_rc
include "design_wrapper.lib" section=tt_parRC
include "design_wrapper.lib" section=tt_cell
include "design_wrapper.lib" section=models

// Library name: MAINLIB_TESTING
// Cell name: SL_inv_1x
// View name: schematic
MP0 (out in vdd vdd) pshort l=0.1 w=0.734 ad=0.14313 as=0.14313 pd=1.858         ps=1.858 nrs=0 nrd=0 m=1 mult=1
MN0 (out in vss vss) nshort l=0.1 w=0.28 ad=0.0546 as=0.0546 pd=0.95         ps=0.95 nrs=0 nrd=0 m=1 mult=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6     iabstol=1e-12 temp=27 tnom=27 gmin=1e-12 rforce=1 maxnotes=5     maxwarns=5 digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output"     checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub

// SkySim test2
// target device: MP0 
// input conditions: in:1
VDD (vdd 0) vsource dc=1.2
V0 (in 0) vsource dc=1.2
VSS (vss 0) vsource dc=0
STRIKE (vdd out) isource type=pulse val0=0 val1=200u period=100n width=5p rise=1p fall=5p
sim tran stop=100p
